US05488055
A mixture of N-(1-isopropylpyrazol-5-yl)-5-(diethylaminosulfonyl) anthranilic acid (12.0 g, 0.031 mol) and POCl3 (80 mL) was refluxed for 6 hours. The reaction mixture was cooled to room temperature and then was poured into ice-water and neutralized with concentrated NH4OH. The mixture was extracted with CH2Cl2 and the CH2Cl2 layer was dried over MgSO4 and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with CH2Cl2 /ether (9/1) to afford 10 g of crude 1-isopropyl-6-(diethylaminosulfonyl)-4-chloro-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-isopropylpyrazol-5-yl)-5-(diethylaminosulfonyl) anthranilic acid | 0.031 mol, 12.0 g | C(C)(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)S(=O)(=O)N(CC)CC | C17H24N4O4S
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 80 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-isopropyl-6-(diethylaminosulfonyl)-4-chloro-1H-pyrazolo[3,4-b]quinoline | 10 g | C(C)(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)S(=O)(=O)N(CC)CC | C17H21ClN4O2S
